US06767909B2
4-(4-Aminobenzylamino)-N-(4,6-dimethylpyrimidin-2-yl)-benzenesulfonamide
18 mg (0.04 mmol) of N-(4,6-dimethylpyrimidin-2-yl)-4-(4-nitrobenzylamino)-benzenesulfonamide was dissolved in 1 ml of tetrahydrofurane. Hydrazinium hydrate (50 μl, 1.5 mmol) and catalytic amount of palladium on charcoal were added to the reaction mixture. Solution was stirred overnight. The reaction mixture was evaporated to dryness and purified on silica using gradient elution (chloroform to 4% methanol in chloroform) to obtain with a yield of 59%. MS (ESI+): m/z 406 (M+H)+, 384 (M+H)+.

reactant | N-(4,6-dimethylpyrimidin-2-yl)-4-(4-nitrobenzylamino)-benzenesulfonamide | 0.04 mmol, 18 mg | CC1=NC(=NC(=C1)C)NS(=O)(=O)C1=CC=C(C=C1)NCC1=CC=C(C=C1)[N+](=O)[O-] | C19H19N5O4S
reactant | Hydrazinium hydrate | 1.5 mmol, 50 μl | O.[NH3+]N
solvent | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-(4-Aminobenzylamino)-N-(4,6-dimethylpyrimidin-2-yl)-benzenesulfonamide | yield of 59% | NC1=CC=C(CNC2=CC=C(C=C2)S(=O)(=O)NC2=NC(=CC(=N2)C)C)C=C1 | C19H21N5O2S
